US06294668B1
(E)-(6R,7R)-7-[2-(3,4-Dimethoxy-phenylsulfanyl)-acetylamino]-3-[1-(3-hydroxy-benzyl)-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid
With 121.1 mg (0.75 mmol) 1,1,-carbonyldiimidazole, 170.6 mg (0.75 mmol) 2-(3,4-dimethoxyphenylthio)acetic acid and 250.0 mg (0.62 mmol) (E)-(6R,7R)-7-amino-3-[1-(3-hydroxy-benzyl)-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia- 1-aza-bicyclo[4.2.0]oct-2-ene2-carboxylic acid trifluoroacetate in 4 ml N,N-dimethylacetamide. The resulting solid was purified by column chromatography on MCI gel (75-150μ, Mitsubishi Kasei Corporation) with a gradient of water:acetonitrile (1:0, 4:1, 3:1). The organic solvent was stripped off at a rotary evaporator and the aqueous phase was freeze-dried.

reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(3,4-dimethoxyphenylthio)acetic acid | 0.75 mmol, 170.6 mg | COC=1C=C(C=CC1OC)SCC(=O)O | C10H12O4S
reactant | (E)-(6R,7R)-7-amino-3-[1-(3-hydroxy-benzyl)-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia- 1-aza-bicyclo[4.2.0]oct-2-ene2-carboxylic acid trifluoroacetate | 0.62 mmol, 250.0 mg | FC(C(=O)O)(F)F.N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC1=CC(=CC=C1)O)=O
solvent | N,N-dimethylacetamide | 4 ml | CN(C(C)=O)C | C4H9NO
product | (E)-(6R,7R)-7-[2-(3,4-Dimethoxy-phenylsulfanyl)-acetylamino]-3-[1-(3-hydroxy-benzyl)-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid | COC=1C=C(C=CC1OC)SCC(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC1=CC(=CC=C1)O)=O | C29H29N3O8S2
